US04757081
To 50 ml of a suspension of 0.36 g (0.018 mole) of sodium hydride in DMSO, 1.7 g (0.0048 mole) of 2-(4-hydroxyphenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone was added, followed by further dropwise addition of 1.0 g (0.0058 mole) of propyl iodide. The reaction mixture was then stirred at room temperature for 6 hours. The reaction mixture was thereafter poured into ice water, followed by extraction with chlorofom. After washing the organic layer with water, it was dried over anhydrous magnesium sulfate. The solvent was distilled off, followed by recrystallization from a 2:1 mixed solvent of acetone and hexane to obtain 1.6 g of 3-methyl-1,6-diphenyl-2-(4-propoxyphenyl)-4(1H)-pyridinone having a melting point of 165°-168° C.

reactant | sodium hydride | 0.018 mole, 0.36 g | [H-].[Na+]
reactant | 2-(4-hydroxyphenyl)-3-methyl-1,6-diphenyl-4(1H)-pyridinone | 0.0048 mole, 1.7 g | OC1=CC=C(C=C1)C=1N(C(=CC(C1C)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C24H19NO2
reactant | propyl iodide | 0.0058 mole, 1.0 g | C(CC)I | C3H7I
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-methyl-1,6-diphenyl-2-(4-propoxyphenyl)-4(1H)-pyridinone | 1.6 g | CC1=C(N(C(=CC1=O)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCC | C27H25NO2
